US07989454B2
4-(2-(2-Carboxy-ethyl)-3-{6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-5-dimethylcarbamoyl-phenoxy]-hexyl}-phenoxy)-butyric acid
The title compound was prepared according to the general procedure described in Example 74 starting from 3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid and dimethylamine.

reactant | 3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid | O1CCOC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=C(C2)OCCCCCCC2=C(C(=CC=C2)OCCCC(=O)OCC)CCC(=O)OCC | C38H46O10
reactant | dimethylamine | CNC | C2H7N
product | 4-(2-(2-Carboxy-ethyl)-3-{6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-5-dimethylcarbamoyl-phenoxy]-hexyl}-phenoxy)-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC1=CC(=CC(=C1)C(N(C)C)=O)C1=CC2=C(OCCO2)C=C1 | C36H43NO9
